US07256219B2
1-[2,5-Bis(2,2,2-trifluoroethoxy)phenyl]-3-(3-methoxyphenyl)-2-propen-1-one
The title compound was prepared from a mixture of 2,5-bis(2,2,2-trifluoroethoxy)acetophenone (200 mg, 0.633 mmol) and m-anisaldehyde (77 ul, 0.633 mmol) similar to Example 6 and isolated as a light yellow solid (74 mg, 27%). 1H NMR (CDCl3): 7.67 (d, J=15.6 Hz, 1H), 7.44 (d, J=15.6 Hz, 1H), 7.34 (s, 1H), 7.30 (dd, J=2.4, 5.7 Hz, 1H), 7.18 (d, J=7.5 Hz, 1H), 7.11 (dd, J=3.2, 8.9 Hz, 2H), 6.97 (dd, J=0.9, 2.7 Hz, 1H), 6.93 (d, J=9.0 Hz, 1H), 4.44-4.33 (m, 4H), 3.83 (s, 3H).

reactant | 2,5-bis(2,2,2-trifluoroethoxy)acetophenone | 0.633 mmol, 200 mg | CC(=O)C1=C(C=CC(=C1)OCC(F)(F)F)OCC(F)(F)F | C12H10F6O3
reactant | m-anisaldehyde | 0.633 mmol, 77 ul | C(C1=CC(=CC=C1)OC)=O | C8H8O2
product | 1-[2,5-Bis(2,2,2-trifluoroethoxy)phenyl]-3-(3-methoxyphenyl)-2-propen-1-one | FC(COC1=C(C=C(C=C1)OCC(F)(F)F)C(C=CC1=CC(=CC=C1)OC)=O)(F)F | C20H16F6O4
